US07332485B2
1-(Benzyloxyimino-Methyl)-Cycloheptanecarboxylic Acid
A mixture of 1-(benzyloxyimino-methyl)-cycloheptanecarboxylic acid methyl ester (5.2 g, 18 mmol) and lithium hydroxide monohydrate (7.56 g, 180 mmol) in THF (80 mL) and water (40 mL) was stirred at 60° C., for 24 h. The THF was removed in vacuo and the reaction mixture was acidified to pH 4 with 6N aqueous HCl and was extracted with dichloromethane (50 μL×5). The combined organic layers were dried (MgSO4) and were evaporated in vacuo to yield the title compound (4.44 g, 90%). MH+276.

reactant | 1-(benzyloxyimino-methyl)-cycloheptanecarboxylic acid methyl ester | 18 mmol, 5.2 g | COC(=O)C1(CCCCCC1)C=NOCC1=CC=CC=C1 | C17H23NO3
reactant | lithium hydroxide monohydrate | 180 mmol, 7.56 g | O.[OH-].[Li+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | water | 40 mL | O | H2O
product | 1-(Benzyloxyimino-Methyl)-Cycloheptanecarboxylic Acid | 4.44 g, 90% | C(C1=CC=CC=C1)ON=CC1(CCCCCC1)C(=O)O | C16H21NO3
